US07544835B2
3-{3-[(6-Aminopyridin-3-ylmethoxycarbonylamino)methyl]phenyl}-2(S)-isopropoxypropanoic acid
3-{3-[(6-t-Butoxycarbonylaminopyridin-3-ylmethoxycarbonylamino)methyl]phenyl}-2(S)-isopropoxypropanoic acid was dissolved in trifluoroacetic acid, and the mixture was concentrated. The residue was purified by reverse-phase high performance liquid chromatography, to give the title compound.

reactant | 3-{3-[(6-t-Butoxycarbonylaminopyridin-3-ylmethoxycarbonylamino)methyl]phenyl}-2(S)-isopropoxypropanoic acid | C(C)(C)(C)OC(=O)NC1=CC=C(C=N1)COC(=O)NCC=1C=C(C=CC1)C[C@@H](C(=O)O)OC(C)C | C25H33N3O7
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 3-{3-[(6-Aminopyridin-3-ylmethoxycarbonylamino)methyl]phenyl}-2(S)-isopropoxypropanoic acid | NC1=CC=C(C=N1)COC(=O)NCC=1C=C(C=CC1)C[C@@H](C(=O)O)OC(C)C | C20H25N3O5
